US07737135B2
a) 4-Bromo-2-(trifluoromethyl)-benzoic acid
A mixture of 1-bromo-4-fluoro-3-(trifluoromethyl)benzene (5.02 g) and potassium cyanide (1.38 g) in DMSO (20 ml) was heated at 80° C. for 14 h. Water was added and the mixture was extracted ether, the organic extracts were dried (MgSO4) and evaporated to give a brown oil. This was dissolved in DMSO (10 ml) and 4 M NaOH (10 ml) and heated at 100° C. for 16 h. 2 M Hcl (20 ml) was added and the mixture was extracted with DCM (three times), the organic extracts were dried (MgSO4), evaporated and purified by chromatography (silica, CH2Cl2-MeOH—AcOH as eluent) to give the sub-title compound (1.99 g).

reactant | 1-bromo-4-fluoro-3-(trifluoromethyl)benzene | 5.02 g | BrC1=CC(=C(C=C1)F)C(F)(F)F | C7H3BrF4
reactant | potassium cyanide | 1.38 g | [C-]#N.[K+]
reactant | Water | O | H2O
reactant | NaOH | 4 M, 10 ml | [OH-].[Na+]
reactant | DMSO | 20 ml | CS(=O)C | C2H6OS
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 4-Bromo-2-(trifluoromethyl)-benzoic acid | 1.99 g | BrC1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C8H4BrF3O2
